US07060836B2
3-(4-Pyridyl)-2,4-imidazolidinedione
A mixture of 4-aminopyridine (25 g, 266 mmol) and ethylisocyanoacetate (35 g, 271 mmol) in N,N-dimethylformamide (250 ml) was heated under reflux for 90 minutes, and allowed to cool. The resulting precipitate was filtered off, and the filtrate heated under reflux for a further 5 hours. The cooled mixture was concentrated under reduced pressure, and the residue triturated with hot ethanol (500 ml). The resulting solid was filtered, and recrystallised from N,N-dimethylformamide to afford the title compound as a yellow crystalline solid, 47.8 g.

reactant | 4-aminopyridine | 266 mmol, 25 g | NC1=CC=NC=C1 | C5H6N2
reactant | ethylisocyanoacetate | 271 mmol, 35 g | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 3-(4-Pyridyl)-2,4-imidazolidinedione | N1=CC=C(C=C1)N1C(NCC1=O)=O | C8H7N3O2
